US07495103B2
To a solution of 2-admantyl-4-methyl-5-nitrophenol (231 mg, 1.6 mmol) in EtOH (2 mL) was added Pd- 5% wt on carbon (10 mg). The mixture was stirred under H2 (1 atm) overnight and then filtered through Celite. The filtrate was evaporated to dryness to provide 2-admantyl-4-methyl-5-aminophenol (C-12), which was used without further purification. HPLC ret. time 2.52 min, 10-99% CH3CN, 5 min run; ESI-MS 258.3 m/z (MH+).

reactant | 2-admantyl-4-methyl-5-nitrophenol | 1.6 mmol, 231 mg | C12C(C3CC(CC(C1)C3)C2)C2=C(C=C(C(=C2)C)[N+](=O)[O-])O | C17H21NO3
solvent | EtOH | 2 mL | CCO | C2H6O
product | 2-admantyl-4-methyl-5-aminophenol | C12C(C3CC(CC(C1)C3)C2)C2=C(C=C(C(=C2)C)N)O | C17H23NO
